US07338960B2
Ethyl 3-(4-{[(1S)-1-(6-bromo-2-pyridinyl)pentyl]oxy}-2-methylphenyl)propanoate
To a stirring solution of (1R)-1-(6-bromo-2-pyridinyl)-1-pentanol (261 mg, 1.07 mmol) and ethyl 3-(4-hydroxy-2-methylphenyl)propanoate (329 mg, 1.58 mmol) in THF (13 mL) at 0° C. under nitrogen was added ADDP (531 mg, 2.10 mmol) followed by tri-N-butylphosphine (0.525 mL, 2.10 mmol) drop-wise. The resulting mixture was then stirred with slow warming to ambient temperature over 15 h. The reaction mixture was then concentrated under vaccum and the solid residue purified directly by SPE (silica, 10 g cartridge) with a pad of celite on the top, eluting with cyclohexane:EtOAc (gradient 100:1 to 20:1) to afford the title compound (350 mg).

reactant | (1R)-1-(6-bromo-2-pyridinyl)-1-pentanol | 1.07 mmol, 261 mg | BrC1=CC=CC(=N1)[C@@H](CCCC)O | C10H14BrNO
reactant | ethyl 3-(4-hydroxy-2-methylphenyl)propanoate | 1.58 mmol, 329 mg | OC1=CC(=C(C=C1)CCC(=O)OCC)C | C12H16O3
reactant | ADDP | 2.10 mmol, 531 mg | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
reactant | tri-N-butylphosphine | 2.10 mmol, 0.525 mL | CCCCP(CCCC)CCCC | C12H27P
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | Ethyl 3-(4-{[(1S)-1-(6-bromo-2-pyridinyl)pentyl]oxy}-2-methylphenyl)propanoate | 350 mg | BrC1=CC=CC(=N1)[C@H](CCCC)OC1=CC(=C(C=C1)CCC(=O)OCC)C | C22H28BrNO3
